US06127541
4-Piperidinobenzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 4-fluorobenzonitrile and piperidine.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4-Piperidinobenzonitrile | N1(CCCCC1)C1=CC=C(C#N)C=C1 | C12H14N2
